US04634548
Preparation of the tetrahydronaphthalene
In Examples 13A-13J hereinafter the numerals given after the notation "epoxide" denotes the number of the respective Examples hereinbefore. The preferred compounds are "epoxide 1", "epoxide 2" and "epoxide 8", i.e. the novel epoxides 6,7-epoxy-1,1,4,4,6-pentamethyl-1,2,3,4,5,6,7,8-octahydronaphthalene, 6,7-epoxy-1,1,3,4,4,6-hexamethyl-1,2,3,4,5,6,7,8-octahydronaphthalene and 5,6-epoxy-1,1,2,3,3-pentamethyl-4,5,6,7-tetrahydroindane referred to in Examples 1, 2 and 8, respectively.

reactant | 6,7-epoxy-1,1,3,4,4,6-hexamethyl-1,2,3,4,5,6,7,8-octahydronaphthalene | O1C2(CC=3C(C(CC(C3CC21)(C)C)C)(C)C)C | C16H26O
reactant | 5,6-epoxy-1,1,2,3,3-pentamethyl-4,5,6,7-tetrahydroindane | O1C2CC=3C(C(C(C3CC21)(C)C)C)(C)C | C14H22O
product | tetrahydronaphthalene | C1CCCC2=CC=CC=C12 | C10H12
